US07943647B2
1.235 g of granular sodium azide (19 mmol) are added to a cold solution of dilsobutyl aluminium chloride (19 mmol, 1.8M in toluene) diluted in 5 ml of toluene and the mixture is stirred at room temperature over the night to give diisobutyl aluminium azide.

reactant | sodium azide | 19 mmol, 1.235 g | [N-]=[N+]=[N-].[Na+]
reactant | aluminium chloride | 19 mmol, 1.8M | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | diisobutyl aluminium azide | [N-]=[N+]=[N-].C(C(C)C)[Al+]CC(C)C | InChI=1S/2C4H9.Al.N3/c2*1-4(2)3;;1-3-2/h2*4H,1H2,2-3H3;;/q;;+1;-1
